US09358222B2
3-(4-Chlorophenyl)-3-(3-hydroxymethylbenzyloxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (NU8367)
The named compound was synthesised from 3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (541 mg, 1.37 mmol, 1 equiv.) and 1,3-benzenedimethanol (946 mg, 6.85 mmol, 5 equiv.) using General Procedure A and obtained as a white solid (390 mg, 75%). 1H NMR (300 MHz, CDCl3): 8.01-7.90 (m, 3H, O2N—C—CH and C(O)═C═CH), 7.62-7.53 (m, 2H, Ar—H), 7.39-7.17 (m, 9H, Ar—H), 6.95-6.91 (m, 2H, Ar—H), 4.80 and 4.13 (d: AB, J=15.0 Hz, 2H, N—CH2), 4.64 (d, J=5.1 Hz, CH2—OH), 3.93 and 3.73 (d: AB, J=11.4 Hz, 2H, OCH2), 1.95 (t, J=5.4 Hz, 1H, OH). 13C NMR (75 MHz, CDCl3): 168.51, 145.42, 144.88, 141.59, 137.45, 135.37, 133.39, 131.79, 130.56, 130.34, 129.17, 128.81, 128.38, 126.61, 126.51, 125.82, 124.32, 123.69, 95.55, 65.42, 65.35, 42.91. m/z (ES): 515 [M+H]+. HPLC: Rt=3.58 min. Anal.: calc. for C29H23ClN2O5+0.15 CH2Cl2: C, 66.34; H, 4.46; N, 5.31. Found: C, 66.12; H, 4.44; N, 5.03.

reactant | 3-(4-chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 1.37 mmol, 541 mg, 1 equiv. | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
reactant | 1,3-benzenedimethanol | 6.85 mmol, 946 mg, 5 equiv. | C1(=CC(=CC=C1)CO)CO | C8H10O2
product | 3-(4-Chlorophenyl)-3-(3-hydroxymethylbenzyloxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 390 mg, 75% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])OCC1=CC(=CC=C1)CO | C29H23ClN2O5
